US06605620B1
Synthesis of 4-[N-(3,5-Dimethoxyphenyl)-N-[4-(3,4,5-trimethoxypheny)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride
4-(3,5-Dimethoxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (148 mg) and 4-(3,4,5-trimethoxyphenyl)benzyl chloride (114 mg) were condensed by the same manner as described in Example 9. Yellow oil of a free base was converted to a dihydrochloride which gave yellow powder of the title compound.

reactant | 4-(3,5-Dimethoxyphenylamino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 148 mg | COC=1C=C(C=C(C1)OC)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C28H35N3O5
reactant | 4-(3,4,5-trimethoxyphenyl)benzyl chloride | 114 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(CCl)C=C1 | C16H17ClO3
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 4-[N-(3,5-Dimethoxyphenyl)-N-[4-(3,4,5-trimethoxypheny)benzyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1)OC)N(CC1=CC=C(C=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C44H51N3O8.2ClH/c1-48-36-24-35(25-37(26-36)49-2)47(28-29-9-11-31(12-10-29)32-20-39(50-3)43(54-7)40(21-32)51-4)34-14-17-46(18-15-34)27-30-13-16-45-38(19-30)33-22-41(52-5)44(55-8)42(23-33)53-6;;/h9-13,16,19-26,34H,14-15,17-18,27-28H2,1-8H3;2*1H
